* bandgap-startup supply-ramp testbench, POST-LAYOUT form (issues #11/#17).
*
* Same experiment as sim/startup/ -- a supply ramp from 0 V into a cold
* block, measuring the time from vdd reaching 90 % of its final value to
* v(vref) settling permanently inside +/-1 % of its own final value -- but
* written against sim/dut's *swappable-DUT* convention instead of carrying
* its own embedded copy of the circuit.
*
* Why a separate slug rather than `run_corners.py startup --dut ...`:
* sim/startup/testbench/bandgap_startup_ramp.spice embeds its own copy of
* bandgap_top/bandgap_core/bandgap_amp/bandgap_startup and declares no
* "dut" key, because it inserts a zero-volt ammeter (Vsu_sense) *between*
* the shared vdd rail and bandgap_startup's own vdd pin -- instrumentation
* that only exists if the startup branch is a separate subcircuit
* instance. Passing --dut to that bench does not swap the circuit; it
* .include's a second, conflicting definition of `bandgap_top` ahead of
* the bench's own, and the run dies on the now-dangling
* `v.xtop.vsu_sense#branch` probe. A post-layout extracted netlist has no
* such hierarchy to tap: `klt extract` flattens the block, so
* bandgap_startup's four devices sit at the same level as everything else
* and no series ammeter can be inserted without editing the extracted
* netlist -- which would stop it being the extracted netlist.
*
* What this bench therefore measures, and does not:
*
* - startup_time_s, vref_final_v, iq_total_final_ua, det_final_v, t0_s,
*   t_settle_s -- all identical in definition to sim/startup/'s, so the
*   two records are directly comparable line for line.
* - iq_startup_branch_final_ua -- NOT measured here. The startup branch's
*   own residual supply current cannot be isolated on a flat netlist. The
*   disengagement evidence this bench does carry is `det_final_v`: the
*   detect node sitting well below nfet_03v3's Vth means MKFB/MKCASC are
*   firmly off, i.e. the branch has disengaged, which is the behavioural
*   half of DR-0001's requirement. The current half stays with the
*   schematic-level record.
*
* The DUT is whatever `tb.json`'s "dut" key (or --dut) names; the record's
* Netlist provenance field says which. The probed internal node
* `xtop.startup_det` is the same physical node sim/startup/ reaches at
* `xtop.xx3.det` -- the extracted netlist is flat, so the schematic's
* `xx3.det` appears at the top of the `bandgap_top` subcircuit under the
* name `klt lvs` paired it with. A schematic-side DUT
* (sim/dut/bandgap_top.spice) does NOT expose that node under that name,
* so this bench is meaningful only against an extracted netlist; the
* schematic-level claim stays with sim/startup/.
*
* Supply drive: a single PWL ramp from 0 V to vdd_val over {tramp}
* seconds, then held -- byte-identical in intent to sim/startup/'s, with
* the same "no .ic / .nodeset, the transient's own t=0 operating point is
* the real power-up condition" reasoning.

vsup vdd 0 pwl(0 0 {tramp} {vdd_val} 10 {vdd_val})
Xtop vdd 0 vref bandgap_top
